US03971786
A solution of N-cyano-N'-methyl-N"-[2-((3-hydroxy-2-pyridyl)-methylthio)ethyl]guanidine (2.2 g) in hydrochloric acid (25 ml) was heated on the steam bath for 2 hours. Concentration followed by recrystallisation of the product afforded N-methyl-N"-[2-((3-hydroxy-2-pyridyl)methylthio)ethyl]guanidine dihydrochloride (1.6 g).

reactant | N-cyano-N'-methyl-N"-[2-((3-hydroxy-2-pyridyl)-methylthio)ethyl]guanidine | 2.2 g | C(#N)NC(=NCCSCC1=NC=CC=C1O)NC | C11H15N5OS
reactant | hydrochloric acid | 25 ml | Cl | ClH
product | N-methyl-N"-[2-((3-hydroxy-2-pyridyl)methylthio)ethyl]guanidine dihydrochloride | 1.6 g | Cl.Cl.CNC(=NCCSCC1=NC=CC=C1O)N | InChI=1S/C10H16N4OS.2ClH/c1-12-10(11)14-5-6-16-7-8-9(15)3-2-4-13-8;;/h2-4,15H,5-7H2,1H3,(H3,11,12,14);2*1H
